* \\wsl$\Ubuntu\home\minstrel\kinetika\project_mayhem\power_electronics\equivalent_circuit\resonant_H_bridge - linear.asc
Lm1 0 N004 {Lm1}
Lm2 0 N005 {Lm2}
R1 N002 N006 10
Cp N002 0 11p
Cd N002 0 1.6p
Rd N002 0 192k
C1 N001 N003 50n
V1 N003 0 SINE(0 19 463700) AC 1
Cw N002 N001 14p
Ls1 N001 N004 {Ls1}
Ls2 N005 N006 {Ls2}
K Lm1 Lm2 1
;.ac oct 10000 10000 2000000
.tran 1m
.param K1=0.7
.param Lm1 = L1*K1
.param Ls1 = L1*(1-K1)
.param Lm2 = L2*K1
.param Ls2 = L2*(1-K1)
.param L1=6u
.param L2=22m
.backanno
.end
